US08389766B2
Alternative preparation of 3-benzamido-4-cyano-2,5-difluoro-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide (Compound No. E36 of Table E)
To a solution of 3-amino-4-cyano-2,5-difluoro-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide (70 mg, 0.15 mmol) (Example I16) in chloroform (0.75 ml) were added 1,8-diazabicycloundec-7-ene (“DBU”) (49 μl, 0.33 mmol) and benzoyl chloride (17 μl, 0.15 mmol). The reaction mixture was heated in a microwave to 140° C. for 30 minutes. Two further portions of benzoyl chloride (17 μl, 0.15 mmol) were added and heating continued at 140° C. for 30 minutes each time. The reaction mixture was partitioned between water and chloroform. The aqueous phase was extracted twice with chloroform. The combined organic phases were dried over sodium sulfate and concentrated. The residue was purified by reverse-phase chromatography (eluent:trifluoroacetic acid/water/acetonitrile 1:4:5 to 1:1:8) to give Compound No. E36 of Table E (0.013 g, 15% yield) as an off-white solid. M.p. 245-248° C. 1H-NMR (400 MHz, CDCl3): 2.28 (6H, s), 7.38 (2H, s), 7.15-8.1 (8H, m) ppm.

reactant | 3-amino-4-cyano-2,5-difluoro-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide | 0.15 mmol, 70 mg | NC=1C(=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C=C(C1C#N)F)F | C19H12F9N3O
reactant | 1,8-diazabicycloundec-7-ene | 0.33 mmol, 49 μl | N1(CCCCCC=NCCC1)C1CCCCCCCCCC1 | C20H38N2
reactant | benzoyl chloride | 0.15 mmol, 17 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | benzoyl chloride | 0.15 mmol, 17 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | chloroform | 0.75 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-benzamido-4-cyano-2,5-difluoro-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide | 15% yield | C(C1=CC=CC=C1)(=O)NC=1C(=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C=C(C1C#N)F)F | C26H16F9N3O2
